US05532267
6-Amidino-2-naphthyl 5-(3-methoxycarbonylpropionylaminomethyl)furan-2-carboxylate hydrochloride
To a solution of 18 g of 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride in 380 ml of DMF was added 19.1 ml of pyridine and then, while cooling with ice, 20 ml of a benzene solution containing 7.5 ml of 3-methoxycarbonylpropionyl chloride was added dropwise thereto for 20 minutes. After stirring at room temperature for 2.5 hours, the reaction mixture was added to 2 l of ether while stirring and cooling with ice, and the mixture was stirred at the same temperature for 5 hours. The supernatant was decanted and 1.5 l of ether was further added and stirred at room temperature for 18 hours. The precipitate was collected by filtration, 800 ml of acetone was added thereto, the mixture was stirred at room temperature for 5 hours, and the crystals were collected by filtration to obtain 19.6 g of the intended product.

reactant | 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride | 18 g | Cl.Cl.NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | pyridine | 19.1 ml | N1=CC=CC=C1 | C5H5N
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | 3-methoxycarbonylpropionyl chloride | 7.5 ml | COC(=O)CCC(=O)Cl | C5H7ClO3
solvent | DMF | 380 ml | CN(C)C=O | C3H7NO
solvent | ether | 2 l | CCOCC | C4H10O
product | 6-Amidino-2-naphthyl 5-(3-methoxycarbonylpropionylaminomethyl)furan-2-carboxylate hydrochloride | 19.6 g | Cl.COC(=O)CCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C22H21N3O6.ClH/c1-29-20(27)9-8-19(26)25-12-17-6-7-18(30-17)22(28)31-16-5-4-13-10-15(21(23)24)3-2-14(13)11-16;/h2-7,10-11H,8-9,12H2,1H3,(H3,23,24)(H,25,26);1H
